US04352811
6-Chloro-3{1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-piperidyl}-1,2-benzisoxazole hydrochloride
A mixture of 16.5 g of 6-chloro-3-(4-piperidyl)-1,2-benzisoxazole, 22.4 g of 4-chloro-1,1-bis(4-fluorophenyl)butane, 22.0 g of potassium carbonate and 200 ml of dimethylformamide was stirred and heated at 75° for 5 hrs. The reaction mixture was allowed to cool and was filtered. The filtrate was concentrated in vacuo to an oil, which was taken up in 300 ml ether and washed with an equal portion of brine. The ether layer was dried over anhydrous sodium sulfate and concentrated in vacuo to an oil. The oil was dissolved in 65 ml of ethanol, the solution was cooled, and 20 ml of ether saturated with hydrogen chloride was added dropwise. Ether (400 ml) was added causing turbidity. The mixture was seeded and then stirred for 1/2 hour to produce the salt. Recrystallization from 800 l of 3:5 ethanol-ether gave 11.3 g (13% yield) of product, mp 205°-207°.

reactant | 6-chloro-3-(4-piperidyl)-1,2-benzisoxazole | 16.5 g | ClC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13ClN2O
reactant | 4-chloro-1,1-bis(4-fluorophenyl)butane | 22.4 g | ClCCCC(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C16H15ClF2
reactant | potassium carbonate | 22.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-3{1-[4,4-bis(4-fluorophenyl)-1-butyl]-4-piperidyl}-1,2-benzisoxazole hydrochloride | 11.3 g, 13% yield | Cl.ClC1=CC2=C(C(=NO2)C2CCN(CC2)CCCC(C2=CC=C(C=C2)F)C2=CC=C(C=C2)F)C=C1 | InChI=1S/C28H27ClF2N2O.ClH/c29-22-7-12-26-27(18-22)34-32-28(26)21-13-16-33(17-14-21)15-1-2-25(19-3-8-23(30)9-4-19)20-5-10-24(31)11-6-20;/h3-12,18,21,25H,1-2,13-17H2;1H
